US05629293
b) 1-Azido-4-[(2R,5S)-3,6-dimethoxy-2-isopropyl-2,5-dihydro-5-pyrazinyl]-butane
1-Bromo-4-[(2R,5S)-3,6-dimethoxy-2-isopropyl-2,5-dihydro-5-pyrazinyl]-butane (3.81 g, 11.95 mmol) were dissolved in 40 ml DMF and 3.25 g NaN3 (50 mmol) and 0.1 g NBu4I were added. The solution was kept between 70° and 80° C. overnight and diluted with 50 ml water. After extraction with chloroform the organic layers were collected and dried (MgSO4). The residue was purified by flash chromatography (hexane/ethyl acetate 9/1).

reactant | 1-Bromo-4-[(2R,5S)-3,6-dimethoxy-2-isopropyl-2,5-dihydro-5-pyrazinyl]-butane | 11.95 mmol, 3.81 g | BrCCCC[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC | C13H23BrN2O2
reactant | NaN3 | 50 mmol, 3.25 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-Azido-4-[(2R,5S)-3,6-dimethoxy-2-isopropyl-2,5-dihydro-5-pyrazinyl]-butane | N(=[N+]=[N-])CCCC[C@@H]1N=C([C@H](N=C1OC)C(C)C)OC | C13H23N5O2
